US07132419B2
A mixture of 5-hydroxy-1-tetralone (2.00 g) and sodium hydroxide (493 mg) was warmed in ethanol (40 mL) to 50° C. Ethyl iodide (3.94 mL) was then added and the reaction mixture was heated at reflux for 16 hours. The reaction mixture was diluted with 2N hydrochloric acid, extracted into ethyl acetate, dried and the solvent removed in vacuo to yield 5-ethoxy-1-tetralone as a white solid (2.06 g)

reactant | 5-hydroxy-1-tetralone | 2.00 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | sodium hydroxide | 493 mg | [OH-].[Na+]
reactant | Ethyl iodide | 3.94 mL | C(C)I | C2H5I
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 2N | Cl | ClH
product | 5-ethoxy-1-tetralone | 2.06 g | C(C)OC1=C2CCCC(C2=CC=C1)=O | C12H14O2
